US09145380B2
2-(Phenethylsulfonylamino)benzenesulfonamide
2-[[(E)-2-Phenylethenyl]sulfonylamino]benzenesulfonamide (0.052 g, 0.15 mmol) was dissolved in MeOH (5 mL) followed by the addition of 10% Pd/C (30 mg). The solution was subjected to hydrogen overnight at 40° C. After filtration, the crude product was purified by preparative HPLC (XTerra MS C8 column, acetonitrile/ammonium acetate buffer) to give the title compound (4 mg, 8%) as a white solid.

reactant | 2-[[(E)-2-Phenylethenyl]sulfonylamino]benzenesulfonamide | 0.15 mmol, 0.052 g | C1(=CC=CC=C1)/C=C/S(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N | C14H14N2O4S2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 2-(Phenethylsulfonylamino)benzenesulfonamide | 4 mg, 8% | C(CC1=CC=CC=C1)S(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N | C14H16N2O4S2
